US09403801B2
Step 8) tert-butyl 8-((2-chloropyrimidin-4-yl)amino)-2-azaspiro[4.5]decane-2-carboxylate
To a solution of 2,4-dichloropyrimidine (0.5 g, 3.4 mmol) and tert-butyl 8-amino-2-azaspiro[4.5]decane-2-carboxylate (0.89 g, 3.5 mmol) in EtOH (20 mL) was added Et3N (0.5 g, 5 mmol). The mixture was stirred at rt for 24 h, then the reaction mixture was concentrated in vacuo and the residue was purified by silica gel column chromatography (EtOAc/PE (v/v)=1/2) to give the product as a white solid (0.4 g, 33%).

reactant | 2,4-dichloropyrimidine | 3.4 mmol, 0.5 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | tert-butyl 8-amino-2-azaspiro[4.5]decane-2-carboxylate | 3.5 mmol, 0.89 g | NC1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1 | C14H26N2O2
reactant | Et3N | 5 mmol, 0.5 g | CCN(CC)CC | C6H15N
solvent | EtOH | 20 mL | CCO | C2H6O
product | tert-butyl 8-((2-chloropyrimidin-4-yl)amino)-2-azaspiro[4.5]decane-2-carboxylate | 0.4 g, 33% | ClC1=NC=CC(=N1)NC1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1 | C18H27ClN4O2
